US05296487
A mixture of 2-ethoxycarbonylamino-4-sulfamoyl-N-[4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl]benzamide (0.16 g), potassium hydroxide (54 mg) and ethanol (10 ml) was stirred under reflux for 4 hours. After evaporation of the solvent, a small amount of water was added and the solution was neutralized with 1N hydrochloric acid. The precipitated materials were collected, triturated with ethanol and recrystallized from ethanol to give crystals of 3-[4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl]-7-sulfamoyl-1,2,3,4-tetrahydroquinazoline-2,4-dione (63

reactant | 2-ethoxycarbonylamino-4-sulfamoyl-N-[4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl]benzamide | 0.16 g | C(C)OC(=O)NC1=C(C(=O)NCCCCN2CCC(=CC2)C2=CC=CC=C2)C=CC(=C1)S(N)(=O)=O | C25H32N4O5S
reactant | potassium hydroxide | 54 mg | [OH-].[K+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-[4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl]-7-sulfamoyl-1,2,3,4-tetrahydroquinazoline-2,4-dione | C1(=CC=CC=C1)C=1CCN(CC1)CCCCN1C(NC2=CC(=CC=C2C1=O)S(N)(=O)=O)=O | C23H26N4O4S
